US03931407
1-(3-Carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[g]indole ##SPC27##
A mixture of 20.0 g. (0.076 mole) of 2-phenacyl-1-tetralone, 11.6 g. (0.076 mole) of 5-aminosalicylic acid, and 70 ml. of glacial acetic acid was heated under reflux for 4 hours, cooled diluted with 10 ml. of water and filtered. The filter cake was washed with water and dried to provide 15.5 g. of solid, m.p. 215°-218°. Recrystallization from benzene-cyclohexane gave 6.5 g. (22%) of yellow crystals, m.p. 245°-247°.

reactant | 2-phenacyl-1-tetralone | 0.076 mole | C(C(=O)C1=CC=CC=C1)C1C(C2=CC=CC=C2CC1)=O | C18H16O2
reactant | 5-aminosalicylic acid | 0.076 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[g]indole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCC3=C(C12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
